US03993774
Alpha-Ethynyl-3-phenoxybenzyl 2,2-dichloro-3,3-dimethyl-cyclopropane carboxylate
2,2-dichloro-3,3-dimethylcyclopropanoyl chloride (2.7g), alpha-ethynyl-3-phenoxybenzyl alcohol (3.0g) and triethylamine (3.0g) were dissolved in toluene (65 ml) at 10° C and the solution was stirred at room temperature for 16 hours. The mixture was filtered and the solvent was removed from the filtrate under reduced pressure. The residue was purified by chromatography on silica gel using toluene as eluant to give the desired product as an oil nD20 1.5660.

reactant | 2,2-dichloro-3,3-dimethylcyclopropanoyl chloride | 2.7g | ClC1(C(C1(C)C)C(=O)Cl)Cl | C6H7Cl3O
reactant | alpha-ethynyl-3-phenoxybenzyl alcohol | 3.0g | C(#C)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C15H12O2
reactant | triethylamine | 3.0g | C(C)N(CC)CC | C6H15N
solvent | toluene | 65 ml | C1(=CC=CC=C1)C | C7H8
product | Alpha-Ethynyl-3-phenoxybenzyl 2,2-dichloro-3,3-dimethyl-cyclopropane carboxylate | ClC1(C(C1(C)C)C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#C)Cl | C21H18Cl2O3
